US08669114B2
8. 1-ethyl-2,3-dimethylimidazolium-pentafluorophenolate
1.48 ml (11.95 mmol) 1-ethyl-3-methyl-2-methylene imidazoline is added to a solution of 2.20 g (11.95 mmol) pentafluorophenol in diethylether cooled to −78° C. by means of a syringe. The reaction mixture is warmed to room temperature over a period of 5 h and stirred at room temperature for 8 h. The precipitated, colorless solid is filtered off, washed twice with 20 ml diethylether and, subsequently, dried in vacuum. The desired product is obtained as a colorless solid which melts at 144° C.

reactant | 1-ethyl-3-methyl-2-methylene imidazoline | 11.95 mmol, 1.48 ml | C(C)N1C(N(CC1)C)=C | C7H14N2
reactant | pentafluorophenol | 11.95 mmol, 2.20 g | FC1=C(C(=C(C(=C1O)F)F)F)F | C6HF5O
solvent | diethylether | C(C)OCC | C4H10O
product | 1-ethyl-2,3-dimethylimidazolium pentafluorophenolate | C(C)[N+]1=C(N(C=C1)C)C.FC1=C(C(=C(C(=C1[O-])F)F)F)F | InChI=1S/C7H13N2.C6HF5O/c1-4-9-6-5-8(3)7(9)2;7-1-2(8)4(10)6(12)5(11)3(1)9/h5-6H,4H2,1-3H3;12H/q+1;/p-1
